US05194430
Step f: 3(S)-[(Diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, methyl ester
Dissolve N-(9-phenylfluorenyl)-3(S)-[(diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, ethyl ester (1 g) in acetonitrile (7 mL) and water (1 mL). Cool to 0° C. and add, by dropwise addition, trifluoroacetic acid (7 mL). Stir at 0° C. for 1 hour then warm to room temperature over 1 hour. Extract into ethyl acetate (10×100 mL) and evaporate the solvent in vacuo to give the title compound.

reactant | N-(9-phenylfluorenyl)-3(S)-[(diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, ethyl ester | 1 g | C1(=CC=CC=C1)C1C2=CC=CC=C2C=2C=CC=C(C12)N1[C@H]([C@H](CCC1)C(CP(=O)(OCC)OCC)=O)C(=O)OCC | C33H38NO6P
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | 3(S)-[(Diethoxyphosphinyl)acetyl]piperidine-2(R)-carboxylic acid, methyl ester | C(C)OP(=O)(OCC)CC(=O)[C@@H]1[C@@H](NCCC1)C(=O)OC | C13H24NO6P
